US04492708
1-isopropyl-2-(1-hydroxyethyl)-6-benzoylbenzimidazole
Reacting 3-isopropylamino-4-aminobenzophenone, prepared by General Preparation 1 (A and B), with lactic acid according to the procedure of General Preparation 2 gave the title product, M+ =308.

reactant | 3-isopropylamino-4-aminobenzophenone | C(C)(C)NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1N | C16H18N2O
reactant | lactic acid | C(C(O)C)(=O)O | C3H6O3
product | 1-isopropyl-2-(1-hydroxyethyl)-6-benzoylbenzimidazole | C(C)(C)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)=O)C(C)O | C19H20N2O2
